US07265093B2
Synthesis of 6-Bromo-7-methyl-1H-indole-2,3-dione.
Chloral alcoholate (0.43 g, 1.05 eq) and Na2SO4 (2.84 g, 20 mmol) were dissolved in 10 mL water. 3-Bromo-2-methylaniline (0.33 g, 1.77 mmol)was added to the solution followed by 0.16 mL conc. HCl aqueous solution and NH2OH.HCl (0.38 g, 3.0 eq). The mixture was refluxed for 15 min and stirring was continued for additional 1 hr at RT. The precipitate was collected by filtration, washed with water and dried under vacuum. This precipitate was dissolved in 1 mL H2SO4 and the solution was heated (80° C.) for 15 min. After cooling down to RT, the mixture was poured into ice-water mixture and the precipitate was collected, washed with water and dried under vacuum to give the title compound (0.26 g, 61%).

reactant | Chloral alcoholate | 0.43 g, 1.05 eq | CCOC(C(Cl)(Cl)Cl)O | C4H7Cl3O2
reactant | Na2SO4 | 20 mmol, 2.84 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 3-Bromo-2-methylaniline | 1.77 mmol, 0.33 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | HCl | 0.16 mL | Cl | ClH
reactant | NH2OH.HCl | 0.38 g, 3.0 eq | NO.Cl
solvent | water | 10 mL | O | H2O
product | 6-Bromo-7-methyl-1H-indole-2,3-dione | 0.26 g, 61% | BrC1=CC=C2C(C(NC2=C1C)=O)=O | C9H6BrNO2
